US09289503B2
The HCl salt of (E)-methyl 4-(2-aminoethylamino)-4-oxobut-2-enoate (0.515 mmol) was taken up in 10 mL of CH3CN along with R-lipoic acid (TCI, 106 mg, 0.515 mmol), HATU (215 mg, 0.567 mmol) and DIEA (270 μl, 1.55 mmol). The resulting reaction mixture was stirred at room temperature for 18 h and diluted with EtOAc. The organic layer was washed with brine, dried (Na2SO4) and concentrated under reduced pressure. Purification by silica gel cinematography (95% CH2Cl2, 5% MeOH) afforded 120 mg of (R,E)-methyl 4-(2-(5-(1,2-dithiolan-3-yl)pentanamido)ethylamino)-4-oxobut-2-enoate. MS (EI) calcd for C15H24N2O4S: 360.12; found 361 (M+1).

reactant | HCl | Cl | ClH
reactant | (E)-methyl 4-(2-aminoethylamino)-4-oxobut-2-enoate | 0.515 mmol | NCCNC(/C=C/C(=O)OC)=O | C7H12N2O3
reactant | R-lipoic acid | 0.515 mmol, 106 mg | C1CSS[C@@H]1CCCCC(=O)O | C8H14O2S2
reactant | HATU | 0.567 mmol, 215 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 1.55 mmol, 270 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | CH3CN | 10 mL | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R,E)-methyl 4-(2-(5-(1,2-dithiolan-3-yl)pentanamido)ethylamino)-4-oxobut-2-enoate | 120 mg | S1S[C@@H](CC1)CCCCC(=O)NCCNC(/C=C/C(=O)OC)=O | C15H24N2O4S2
